US07919628B2
135 mg 2-{[1-(1-Benzothiazol-2-yl-ethoxy)-naphthalene-2-carbonyl]-amino}-2-methyl-propionic acid methyl ester in 1 ml methanol and 1.5 ml 1M aqueous sodium hydroxide solution were heated to 100° C. for 2 min in a microwave reactor. The reaction mixture was then acidified using 2 M hydrochloric acid and extracted with ethyl acetate twice. The combined organic layers were dried over magnesium sulphate, filtrated and concentrated in vacuo. Precipitation with pentane yielded 44 mg of 2-{[1-(1-Benzothiazol-2-yl-ethoxy)-naphthalene-2-carbonyl]-amino}-2-methyl-propionic acid as a colorless solid.

reactant | 2-{[1-(1-Benzothiazol-2-yl-ethoxy)-naphthalene-2-carbonyl]-amino}-2-methyl-propionic acid methyl ester | 135 mg | COC(C(C)(C)NC(=O)C1=C(C2=CC=CC=C2C=C1)OC(C)C=1SC2=C(N1)C=CC=C2)=O | C25H24N2O4S
reactant | hydrochloric acid | 2 M | Cl | ClH
solvent | methanol | 1 ml | CO | CH4O
solvent | sodium hydroxide | 1M, 1.5 ml | [OH-].[Na+]
product | 2-{[1-(1-Benzothiazol-2-yl-ethoxy)-naphthalene-2-carbonyl]-amino}-2-methyl-propionic acid | 44 mg | S1C(=NC2=C1C=CC=C2)C(C)OC2=C(C=CC1=CC=CC=C21)C(=O)NC(C(=O)O)(C)C | C24H22N2O4S
